US09108952B2
Step 2: Preparation of N-methyl-2-(pyridin-3-yl)thiazol-5-amine
To a dry 2 L round bottom flask equipped with mechanical stirrer, addition funnel and reflux condenser was charged N-methyl-2-(pyridine-3-carbothioamido)acetamide (100 g, 478 mmol) and acetonitrile (1 L). To this mixture was added phosphorus oxychloride (256 g, 1672 mmol) portionwise over 10 minutes. The reaction mixture was stirred at ambient temperature for 10 minutes during which time a slight exotherm occurred from 22° C. to 34° C. (Note: some solid remained undissolved in the reaction mixture, and the mixture became thick, but still stirred reasonably well). The reaction mixture was heated to 85° C. (refluxing gently). After 3 hours, all of the solid had dissolved, forming a dark amber solution. Analysis of an aliquot by TLC (70% ethyl acetate: 30% hexanes) after 4 hours indicated that the reaction was essentially complete. The reaction mixture was allowed to cool to 25° C. and the solvent removed by rotary evaporation. The residue was dissolved in water and treated with solid sodium bicarbonate until slightly basic (pH ˜8) with continuous stirring (Note: No attempt was made to control the temperature, and the flask was slightly warm to the touch). A brown precipitate started to form after a few minutes. The mixture was continued to stir at 25° C. for 16 hours. The brown solid was collected by vacuum filtration and washed with water. This gave a tan solid wet cake (91 g) which was then dried in vacuo at 40° C. to a constant weight. This gave N-methyl-2-(pyridin-3-yl)thiazol-5-amine as a sand colored solid (68.5 g, 75%): mp 140-141° C.; 1H NMR (400 MHz, CDCl3) δ 8.98 (dd, J=2.3, 0.7 Hz, 1H), 8.53 (dd, J=4.8, 1.6 Hz, 1H), 8.07 (ddd, J=8.0, 2.2, 1.7 Hz, 1H), 7.40-7.21 (m, 1H), 6.96 (s, 1H), 4.18 (s, 1H), 2.96 (s, 3H); 13C NMR (101 MHz, Chloroform) δ 153.23, 149.15, 146.54, 132.23, 130.47, 123.65, 121.20, 34.48; Anal. Calc'd. for C9H9N3S: C, 56.52; H, 4.74; N, 21.97; S, 16.77. Found: C, 56.31: H, 4.74; N, 21.81; S, 16.96.

reactant | N-methyl-2-(pyridine-3-carbothioamido)acetamide | 478 mmol, 100 g | CNC(CNC(=S)C=1C=NC=CC1)=O | C9H11N3OS
reactant | acetonitrile | 1 L | C(C)#N | C2H3N
reactant | phosphorus oxychloride | 1672 mmol, 256 g | P(=O)(Cl)(Cl)Cl | Cl3OP
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | N-methyl-2-(pyridin-3-yl)thiazol-5-amine | CNC1=CN=C(S1)C=1C=NC=CC1 | C9H9N3S
